US04980480
To a stirred solution of 5.25 g (00246 mole) of acetaldehyde 4-chloro-3-nitrophenylhydrazone in 25 ml of acetic acid was added dropwise a solution of 2.0 g (0.0246 mole) of potassium cyanate in 5 ml of water. After complete addition, 50 ml of an aqueous 5% sodium hypochlorite solution was added dropwise, forming a precipitate. After about 1/2 hour, the solid was collected by filtration and dried to yield 5.4 g of 1-(4-chloro-3-nitrophenyl)-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one.

reactant | acetaldehyde 4-chloro-3-nitrophenylhydrazone | 5.25 g | ClC1=C(C=C(C=C1)NN=CC)[N+](=O)[O-] | C8H8ClN3O2
reactant | potassium cyanate | 0.0246 mole, 2.0 g | [O-]C#N.[K+]
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | 1-(4-chloro-3-nitrophenyl)-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 5.4 g | ClC1=C(C=C(C=C1)N1N=C(NC1=O)C)[N+](=O)[O-] | C9H7ClN4O3
